US07666878B2
87d) [2-Ethyl-1-(4-trifluoromethyl-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To an ice-cooled stirring solution of (2-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (80 mg, 0.37 mmol) in DMF (1 ml) is added BEMP (171 μl, 0.59 mmol). The solution is stirred at room temperature for 40 minutes and then re-cooled. 4-(Trifluoromethyl)benzyl bromide ((91 μl, 0.59 mmol) is added and stirring continues while the reaction mixture gradually warmed up to room temperature overnight. The resulting mixture is poured into water (30 ml) and extracted with 1:1 EtOAc/ether. The organic layer is washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue is loaded on a pre-packed Isolute™ silica column and eluted with DCM to yield the titled compound as a pale yellow oil. (MH+ 377)

reactant | (2-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.37 mmol, 80 mg | COC(CC1=C(NC2=NC=CC=C21)CC)=O | C12H14N2O2
reactant | BEMP | 0.59 mmol, 171 μl | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 4-(Trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | water | 30 ml | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [2-Ethyl-1-(4-trifluoromethyl-benzyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=C(C=C2)C(F)(F)F)CC)=O | C20H19F3N2O2
